US09210927B2
Preparation of (E)-2-(2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoyl)-N-ethyl-1-methylhydrazinecarboxamide (F1)
Prophetically, (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoic acid can be reacted with N-ethyl-1-methylhydrazinecarboxamide in the presence of N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride (EDC.HCl) and DMAP to furnish the title molecule (Org. Lett. 2004, 6, 929-931).

reactant | (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoic acid | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9BrCl3F3O2
reactant | N-ethyl-1-methylhydrazinecarboxamide | C(C)NC(=O)N(N)C | C4H11N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (E)-2-(2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoyl)-N-ethyl-1-methylhydrazinecarboxamide | BrC1=C(C(=O)NN(C(=O)NCC)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H18BrCl3F3N3O2
